US08247556B2
N-(3-Oxo-3,4-dihydro-2H-benzo[1,4]thiazin-6-yl)-2-[(1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)-amino]-nicotinamide
To an oven-dry microwave tube was added 2-fluoro-N-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-6-yl)-nicotinamide (150 mg, 0.5 mmol), C-(1H-pyrrolo[2,3-b]pyridin-4-yl)-methylamine hydrochloride salt (220 mg, 1.0 mmol), DIEA (1 mL), and t-BuOH (2 mL). The resulting mixture was sealed off and underwent microwave heating at 170° C. for 20 min. Solvent was removed in vacuo. The crude solid was purified by chromatography on silica gel. Elution with DCM:MeOH mixture (97:3) gave final compound. MS (ES+): 430.6 (M+H). Calc'd. for C22H18N6O2S—430.49.

reactant | 2-fluoro-N-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-6-yl)-nicotinamide | 0.5 mmol, 150 mg | FC1=C(C(=O)NC=2C=CC3=C(NC(CS3)=O)C2)C=CC=N1 | C14H10FN3O2S
reactant | C-(1H-pyrrolo[2,3-b]pyridin-4-yl)-methylamine hydrochloride salt | 1.0 mmol, 220 mg | Cl.N1C=CC=2C1=NC=CC2CN
reactant | DIEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | t-BuOH | 2 mL | CC(C)(C)O | C4H10O
product | N-(3-Oxo-3,4-dihydro-2H-benzo[1,4]thiazin-6-yl)-2-[(1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)-amino]-nicotinamide | O=C1CSC2=C(N1)C=C(C=C2)NC(C2=C(N=CC=C2)NCC2=C1C(=NC=C2)NC=C1)=O | C22H18N6O2S
